US07888364B2
70 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 4-(2-(4-methyl-1H-imidazole-1-yl)ethylsulfonyl)benzoic acid via Procedure G. The product was purified on reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(2-(4-methyl-1H-imidazol-1-yl)ethylsulfonyl)benzamide. MS (Q1) 481.0 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 70 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 4-(2-(4-methyl-1H-imidazole-1-yl)ethylsulfonyl)benzoic acid | CC=1N=CN(C1)CCS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C13H14N2O4S
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(2-(4-methyl-1H-imidazol-1-yl)ethylsulfonyl)benzamide | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)S(=O)(=O)CCN1C=NC(=C1)C)=O)C1=NC=CC=C1 | C24H21ClN4O3S
